US05457118
3-(3,5-Dibromobenzyl)pyridine
A solution of 3-(3,5-dibromobenzoyl)pyridine (Preparation 1; 19.0 g) and hydrazine hydrate (13.9 ml) in ethylene glycol (140 ml) was heated under reflux for 45 minutes. The volatile material was distilled off until the internal temperature reached 180° C., and then the reaction mixture was cooled to 80° C. Potassium hydroxide (7.80 g) was added and the resulting solution was heated under reflux for 30 minutes, cooled and then poured into water. The mixture was extracted several times with ethyl acetate, and the combined extracts were washed with water and dried (MgSO4). Evaporation under vacuum gave the title compound (16.38 g), m.p. 70°-72° C. (after crystallisation from ethyl acetate-hexane). Found: C,44.29; H,2.66; N,4.29. C12H9Br2N requires C,44.07; H,2.77; N,4.28%.

reactant | 3-(3,5-dibromobenzoyl)pyridine | 19.0 g | BrC=1C=C(C(=O)C=2C=NC=CC2)C=C(C1)Br | C12H7Br2NO
reactant | hydrazine hydrate | 13.9 ml | O.NN
solvent | ethylene glycol | 140 ml | C(CO)O | C2H6O2
product | 3-(3,5-Dibromobenzyl)pyridine | BrC=1C=C(CC=2C=NC=CC2)C=C(C1)Br | C12H9Br2N
